US07776869B2
A solution of (S)-tert-butyl 1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ylcarbamate (15.64 g, 40 mmol) was cooled to 7° C. and hydrochloric acid 4.0 M dioxane (80 ml, 321 mmol) was added and the mixture allowed to warm to ambient temperature. The orange solution was allowed to stir for 14 h, at which point it was concentrated in vacuo to give (S)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine dihydrochloride as a yellow solid. MS m/z=290 [M+H]+. Calc'd for C12H14F3N3O2: 289.

reactant | (S)-tert-butyl 1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ylcarbamate | 40 mmol, 15.64 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C17H22F3N3O4
reactant | hydrochloric acid | 321 mmol, 4.0 M, 80 ml | Cl | ClH
product | (S)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-amine dihydrochloride | Cl.Cl.[N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@H](CCC1)N | InChI=1S/C12H14F3N3O2.2ClH/c13-12(14,15)8-3-4-10(11(6-8)18(19)20)17-5-1-2-9(16)7-17;;/h3-4,6,9H,1-2,5,7,16H2;2*1H/t9-;;/m0../s1
